US07528129B2
7.5d) (R)-1-(4-methoxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 40 mg (0.08 mmol) (R)-2-(4-methoxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 29 mg (0.09 mmol) TBTU and 14 μL (0.10 mmol) triethylamine in 1 mL DMF was stirred for 1 h at RT. Then 15 mg (0.09 mmol) 1-(tetrahydropyran-4-yl)-piperazine was added and the mixture was stirred for a further 16 h at RT. The reaction solution was purified by HPLC without any further working up; the fractions containing the product were combined and lyophilised.

reactant | (R)-2-(4-methoxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.08 mmol, 40 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OC)C)C(=O)O)C=CC=C2 | C27H33N3O6
reactant | TBTU | 0.09 mmol, 29 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.10 mmol, 14 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.09 mmol, 15 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-methoxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)OC)C)C=CC=C2 | C36H49N5O6
